US08859591B2
1-(2,6-Difluoro-4-methoxy-phenyl)-4-trifluoromethyl-1H-pyrazole (278 mg, 0.999 mmol) was dissolved in dichloromethane (3 mL). Boron tribromide (20.0 mL, 1.0 M in DCM, 20.0 mmol) was added and the reaction was refluxed. At 42 h, the reaction was cooled in an ice bath and slowly quenched with methanol. The combined materials were then concentrated and partitioned between ethyl acetate and sat. NaHCO3. The aqueous layer was extracted with ethyl acetate and the combined organics dried over MgSO4. Purification by silica gel flash chromatography (ethyl acetate in heptane) gave 3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenol (0.231 g, 88%) as a tan oil that solidified upon standing. 1H NMR (400 MHz, CDCl3, δ): 7.99 (s, 1H) 7.90 (s, 1H) 6.50-6.60 (m, 2H); MS (M+1): 265.2.

reactant | 1-(2,6-Difluoro-4-methoxy-phenyl)-4-trifluoromethyl-1H-pyrazole | 0.999 mmol, 278 mg | FC1=C(C(=CC(=C1)OC)F)N1N=CC(=C1)C(F)(F)F | C11H7F5N2O
reactant | Boron tribromide | 20.0 mmol, 1.0 M, 20.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenol | 0.231 g, 88% | FC=1C=C(C=C(C1N1N=CC(=C1)C(F)(F)F)F)O | C10H5F5N2O
